US06974815B2
Anhydrous N,N-dimethylhydrazine (17 ml) (3,7 eq.) was quickly poured in a solution of 2-[(4-bromophenyl)methyl]-cyclohexanone (16 g) (0.06 mol) in EtOH (200 ml). The reaction mixture was refluxed for 10 h, then concentrated to dryness. The residue was partitioned between tBuOMe and water, the organic phase washed twice with water, dried over magnesium sulfate and concentrated to yield 2-[(4-bromophenyl)methyl]-cyclohexanone dimethylhydrazone (16 g) as a yellow oil. 1H NMR (CDCl3): 7.35 (2H, d), 7.05 (2H, d), 3.05 (1H, dd), 2.4 (6H,s), 2.7-2.2 (4H, m), 1.8-1.3 (6H, m).

reactant | N,N-dimethylhydrazine | 17 ml, 3,7 eq. | CN(N)C | C2H8N2
reactant | 2-[(4-bromophenyl)methyl]-cyclohexanone | 0.06 mol, 16 g | BrC1=CC=C(C=C1)CC1C(CCCC1)=O | C13H15BrO
solvent | EtOH | 200 ml | CCO | C2H6O
product | 2-[(4-bromophenyl)methyl]-cyclohexanone dimethylhydrazone | 16 g | CN(N=C1C(CCCC1)CC1=CC=C(C=C1)Br)C | C15H21BrN2
